** sch_path: /foss/designs/work/xschem/tutorial/TB_inv1.sch
**.subckt TB_inv1
x1 dvdd vin vout 0 inv1
V1 vin 0 0 PULSE('PAR_VDD' 0 PAR_DEL PAR_SLEW PAR_SLEW '0.5*PAR_PER' '1.0*PAR_PER')
Vsup dvdd 0 PAR_VDD
C1 vout 0 'PAR_CLOAD'
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/smbb000149.ngspice typical



** PARAMETERS
.PARAM PAR_VDD=3.3
.PARAM PAR_CLOAD=100f
.PARAM PAR_SLEW=100p
.PARAM PAR_PER=10n
.PARAM PAR_DEL='0.1*PAR_PER'

** Rise/Fall 10-90%
.MEASURE TRAN tr1090 TRIG v(vout) VAL='0.1*PAR_VDD' RISE=1 TARG v(vout) VAL='0.9*PAR_VDD' RISE=1
.MEASURE TRAN tf9010 TRIG v(vout) VAL='0.9*PAR_VDD' FALL=1 TARG v(vout) VAL='0.1*PAR_VDD' FALL=1

** Delay Rise Fall
.MEASURE TRAN tdrise TRIG v(vin)  VAL='0.5*PAR_VDD' FALL=1 TARG v(vout) VAL='0.5*PAR_VDD' RISE=1
.MEASURE TRAN tdfall TRIG v(vin)  VAL='0.5*PAR_VDD' RISE=1 TARG v(vout) VAL='0.5*PAR_VDD' FALL=1

**Leakage current and average current
.MEASURE TRAN iavg AVG vsup#branch FROM=PAR_DEL TO='PAR_DEL+PAR_PER'
.MEASURE TRAN ileak AVG vsup#branch FROM='PAR_DEL+0.4*PAR_PER' TO='PAR_DEL+0.45*PAR_PER'

.control
save all
OP
TRAN 1p 21n
write TB_inv1.raw
plot v(vin) v(vout)
.endc



**** end user architecture code
**.ends

* expanding   symbol:  inv1.sym # of pins=4
** sym_path: /foss/designs/work/xschem/tutorial/inv1.sym
** sch_path: /foss/designs/work/xschem/tutorial/inv1.sch
.subckt inv1 DVDD vin vout DVSS
*.ipin vin
*.opin vout
*.iopin DVDD
*.iopin DVSS
XM1 vout vin DVDD DVDD pfet_03v3 L=0.3u W=1.7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 vout vin DVSS DVSS nfet_03v3 L=0.3u W=0.85u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end